### PR TITLE
String rewrite system based definition of offset normalization

### PR DESCRIPTION
**Pull request by ehatti**
Redefines the definition of pointer offset normalization in [this file](https://github.com/ehatti/BRiCk/blob/srw-ind-pts/rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v) as a string rewrite system. Current progress: The pointer equalities in the `PTRS` interface are all provable, `vaddr` and `alloc_id` axioms have not been proven -- those are orthogonal to the definition of normalization however.

`roff_rw_local` defines the local rewrites, namely that `o_base` and `o_derived` cancel out, that indexing the 0th element is a no-op, and that sequences `o_sub`s should be merged together. `roff_rw_global` lifts this to a rewrite relation on entire offsets, and finally `roff_rw` takes the closure of this to define the rewrite system.

From there we define a function `normalize` -- which is used to ensure the result of offset composition is still normalized -- and prove it is equivalent to `roff_rw`. I've proven that it is sound wrt `roff_rw`, but I still need to prove the opposite direction.

I'm using the Equations library to get nicer well-founded recursion, since `Program Fixpoint` generates quite unworkable terms. Let me know if adding this extra dependency is a problem, if it is then we can switch to a different definition for `normalize`. 
Equations is just nice because it "just works" and so makes it faster to get the idea into Coq.

### CODE REVIEW

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 1]
```diff
@@ -0,0 +1,1002 @@
+(*
+ * Copyright (c) 2020 BlueRock Security, Inc.
+ * This software is distributed under the terms of the BedRock Open-Source License.
+ * See the LICENSE-BedRock file in the repository root for details.
+ *)
+
+(**
+Another (incomplete) consistency proof for [PTRS], based on Krebbers' PhD thesis, and
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: You should revise this text.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 2]
```diff
@@ -0,0 +1,1002 @@
...
+Require Import bedrock.prelude.option.
+Require Import bedrock.prelude.numbers.
+
+Require Import bedrock.lang.cpp.syntax.
+Require Import bedrock.lang.cpp.semantics.sub_module.
+Require Import bedrock.lang.cpp.semantics.values.
+Require Import bedrock.lang.cpp.model.simple_pointers_utils.
+Require Import bedrock.lang.cpp.model.inductive_pointers_utils.
+
+From Equations Require Import Equations.
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: I think this should move up towards the top of the file since it is a Rocq library.

Comment (gmalecha) [reply rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: Also, we generally seem to avoid `From...Require`

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 3]
```diff
@@ -0,0 +1,1002 @@
...
+Axiom irr : ∀ (P : Prop) (p q : P), p = q.
+
+Implicit Types (σ : genv) (z : Z).
+#[local] Close Scope nat_scope.
+#[local] Open Scope Z_scope.
+
+Module PTRS_IMPL <: PTRS_INTF.
+  Import canonical_tu address_sums merge_elems.
+
+  Inductive raw_offset_seg : Set :=
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:40]: I propose adding a comment here or somewhere to outline the setup. Maybe we can put all of the non-canonical stuff in a module like:

```coq
Module raw_offset.

End raw_offset.

Definition offset := { o : raw_offset.t | raw_offset.is_canonical o }.
```

And then hide most of the non-canonical stuff.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 4]
```diff
@@ -0,0 +1,1002 @@
...
+
+Require Import bedrock.lang.cpp.syntax.
+Require Import bedrock.lang.cpp.semantics.sub_module.
+Require Import bedrock.lang.cpp.semantics.values.
+Require Import bedrock.lang.cpp.model.simple_pointers_utils.
+Require Import bedrock.lang.cpp.model.inductive_pointers_utils.
+
+From Equations Require Import Equations.
+
+Axiom irr : ∀ (P : Prop) (p q : P), p = q.
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:31]: Probably not ultimately necessary.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 5]
```diff
@@ -0,0 +1,1002 @@
...
+  | o_field_ (* type-name: *) (f : field)
+  | o_sub_ (ty : type) (z : Z)
+  | o_base_ (derived base : globname)
+  | o_derived_ (base derived : globname)
+  | o_invalid_.
+  #[local] Instance raw_offset_seg_eq_dec : EqDecision raw_offset_seg.
+  Proof. solve_decision. Defined.
+  #[global] Declare Instance raw_offset_seg_countable : Countable raw_offset_seg.
+
+  Definition offset_seg : Set := raw_offset_seg * Z.
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: @Blaisorblade @ehatti I forget, what is the motivation for including the `Z` here? Can it be removed? It seems like it is always computed from the other component (given a `genv`) so maybe this naturally comes in at another layer.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 6]
```diff
@@ -0,0 +1,1002 @@
...
+  Definition roff_rw_global (os1 os2 : raw_offset) :=
+    ∃ l r s t,
+      os1 = l ++ s ++ r /\
+      os2 = l ++ t ++ r /\
+      roff_rw_local s t.
+
+  Definition roff_rw := rtc roff_rw_global.
+  Definition roff_canon := nf roff_rw_global.
+  
+  Definition offset := {o : raw_offset | roff_canon o}.
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:227]:
```suggestion
  (** *** Offsets *)
  Definition offset := {o : raw_offset | roff_canon o}.
```

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v (hunk 3 above)
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:40]:
```suggestion
  Variant raw_offset_seg : Set :=
```

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 7]
```diff
@@ -0,0 +1,1002 @@
...
+      split.
+      { constructor. }
+      { done. }
+    Qed.
+
+    Lemma rw_bwd_r :
+      ∀ o1 o2 o2' o3,
+        roff_rw o2 o2' ->
+        roff_rw (o1 ++ o2) o3 ->
+        roff_rw (o1 ++ o2') o3.
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: This lemma vaguely looks like a `Proper` instance.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 8]
```diff
@@ -0,0 +1,1002 @@
...
+    { by destruct l. }
+    subst.
+    assert (s = []).
+    { by destruct s. }
+    subst.
+    clear - H3. remember [].
+    by destruct H3.
+  Qed.
+
+  Inductive root_ptr : Set :=
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]:
```suggestion
  Variant root_ptr : Set :=
```

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 9]
```diff
@@ -0,0 +1,1002 @@
...
+  | global_ptr_ (tu : translation_unit_canon) (o : obj_name)
+  | fun_ptr_ (tu : translation_unit_canon) (o : obj_name)
+  | alloc_ptr_ (a : alloc_id).
+  
+  Inductive ptr_ : Set :=
+  | invalid_ptr_
+  | offset_ptr (p : root_ptr) (o : offset).
+  Definition ptr := ptr_.
+
+  Program Definition __offset_ptr (p : ptr) (o : offset) : ptr :=
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]:
```suggestion
  #[program] Definition __offset_ptr (p : ptr) (o : offset) : ptr :=
```

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 10]
```diff
@@ -0,0 +1,1002 @@
...
+    by destruct H3.
+  Qed.
+
+  Inductive root_ptr : Set :=
+  | nullptr_
+  | global_ptr_ (tu : translation_unit_canon) (o : obj_name)
+  | fun_ptr_ (tu : translation_unit_canon) (o : obj_name)
+  | alloc_ptr_ (a : alloc_id).
+  
+  Inductive ptr_ : Set :=
```
Comment (gmalecha) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]:
```suggestion
  Variant ptr_ : Set :=
```

**Review by gmalecha — COMMENTED** [review]
The PR looks really great. These are mostly small, stylistic comments.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v (hunk 5 above)
Comment (gmalecha) [reply rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: @ehatti I think this is the main technical comment, so I wanted to highlight it here.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 11]
```diff
@@ -0,0 +1,1002 @@
...
+    repeat case_match; (done || lia).
+  Qed.
+
+  Section norm_lemmas.
+
+    Lemma roff_rw_cong :
+      ∀ ol1 ol2 or1 or2,
+        roff_rw ol1 or1 ->
+        roff_rw ol2 or2 ->
+        roff_rw (ol1 ++ ol2) (or1 ++ or2).
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: I think this should be roughly:
```suggestion
    #[global] Instance roff_rw_cong :
      Proper (roff_rw ==> roff_rw ==> roff_rw) (++).
```

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v (hunk 7 above)
Comment (Blaisorblade) [reply rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: It would be a Proper instance for the function composition `fun o => roff_rw (o1 ++ o) o3` — this isn't really applicable. But `roff_rw_cong` can be a Proper instance, then `rw_bwd_r` would be proved by `move => o1 o2 o2' o3 ->.`, and I'd suggest deleting it entirely and using `rewrite` at the call site.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 12]
```diff
@@ -0,0 +1,1002 @@
...
+      { apply: norm_canon. }
+    Qed.
+
+    Lemma rw_bwd_l :
+      ∀ o1 o1' o2 o3,
+        roff_rw o1 o1' ->
+        roff_rw (o1 ++ o2) o3 ->
+        roff_rw (o1' ++ o2) o3.
+    Proof.
+    Admitted.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: Best delete, like `rw_bwd_r`.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v (hunk 4 above)
Comment (ehatti) [reply rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:31]: Maybe not strictly necessary, but it does make it much easier to prove equality of `offset`s (since we don't have to prove equalities of proofs).

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v (hunk 7 above)
Comment (ehatti) [reply rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: Sounds good, I'll go ahead and make it a `Proper` instance

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v (hunk 12 above)
Comment (ehatti) [reply rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v]: These are actually needed, they essentially states that normalization is order-independent, which is a crucial property as it's what allows the proofs of the offset equalities to be very easy.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v (hunk 4 above)
Comment (Blaisorblade) [reply rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:31]: _If_ we want the proof irrelevance axiom, it's better to import it from the stdlib — but there's an axiom-free trick to achieve that, as long as  `roff_canon` is decidable
```coq
Definition offset := {o : raw_offset | roff_canon o}.
```
we can use something like
```
#[global] Instance roff_canon_dec o : Decision (roff_canon o).
Proof. ... Qed.
Definition offset := {o : raw_offset | bool_decide (roff_canon o) }.
(* or *)
Definition offset := dsig roff_canon.
```
stdpp already proves proof-irrelevance on `eq bool` in
https://gitlab.mpi-sws.org/iris/stdpp/-/blob/9e1cd49190c6e57e8c4d49ab81a89f8958d401bc/stdpp/decidable.v#L249-262 packages this trick.

(Separately, as a mechanization technicality that is not yet relevant, using `Qed` on `Decision` instances is fishy since they're proof-relevant, not in `Prop`, but it's okay in this specific case; using `Defined` requires extra attention).

**Comment by gmalecha** [comment]
Are we ready to get this merged? It seems like we need to resolve the comments and have a final code review.

It probably makes sense for the work on the predicates to be handled in a separate PR.

**Comment by ehatti** [comment]
That sounds like a good idea, I'll work on those `admit`s at the end of the file today and tomorrow and then we can merge.

File: rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v [hunk 13]
```diff
@@ -0,0 +1,635 @@
...
+  Notation _field := (@o_field) (only parsing).
+  (** subscript an array *)
+  Notation _sub z := (@o_sub z) (only parsing).
+  (** [_base derived base] is a cast from derived to base. *)
+  Notation _base := (@o_base) (only parsing).
+  (** [_derived base derived] is a cast from base to derived *)
+  Notation _derived := (@o_derived) (only parsing).
+End PTRS_MIXIN.
+
+Module Type PTRS_INTF := PTRS_INTF_MINIMAL <+ PTRS_MIXIN.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: (Trailing newline needed).

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers.v [hunk 14]
```diff
@@ -23,7 +23,7 @@ Require Import bedrock.prelude.numbers.
 
 Require Import bedrock.lang.cpp.syntax.
 Require Import bedrock.lang.cpp.semantics.sub_module.
-Require Import bedrock.lang.cpp.semantics.values.
+Require Import bedrock.lang.cpp.semantics.ptrs.
 Require Import bedrock.lang.cpp.model.simple_pointers_utils.
 Require Import bedrock.lang.cpp.model.inductive_pointers_utils.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers.v]: This can be deleted regardless.

File: rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v [hunk 15]
```diff
@@ -0,0 +1,635 @@
...
+   *)
+  (* #[global] Instance ptr_cong_trans {σ : genv} : Transitive (ptr_cong σ). *)
+
+  Lemma offset_ptr_cong σ (p : ptr) o1 o2 :
+    offset_cong σ o1 o2 -> ptr_cong σ (p ,, o1) (p ,, o2).
+  Proof. rewrite /ptr_cong. naive_solver. Qed.
+
+  (** ** [same_address] lemmas *)
+
+  #[global] Instance same_address_dec `{genv} : RelDecision same_address.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: Probably some of these `genv` could be a section variable.

File: rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v [hunk 16]
```diff
@@ -0,0 +1,635 @@
...
+
+  #[global] Notation "p .[ t ! n ]" := (_dot p (o_sub t n))
+    (at level 11, left associativity, format "p  .[  t  '!'  n  ]") : stdpp_scope.
+  #[global] Notation ".[ t ! n ]" := (o_sub t n)
+    (at level 11, no associativity, format ".[  t  !  n  ]") : stdpp_scope.
+
+  (* [o_sub_0] axiom is required because any object is a 1-object array
+     (<https://eel.is/c++draft/expr.add#footnote-80>).
+   *)
+  Axiom o_sub_0 : ∀ ty, .[ty ! 0] = o_id.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: Gregory suggests we could keep the side condition.

File: rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v [hunk 17]
```diff
@@ -0,0 +1,635 @@
...
+  (** ** Concrete pointer offsets.
+
+      They correspond to the kind of aggregate objects described in e.g.
+      <https://eel.is/c++draft/basic.compound>.
+   *)
+
+  (* If [p : cls*] points to an object with type [cls] and field [f],
+     then [p ,, o_field cls f] points to [p -> f].
+   *)
+  Parameter o_field : field -> offset.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: Gregory suggests we could keep the extra `genv` here.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 18]
```diff
@@ -0,0 +1,1336 @@
...
+      roff_canon_syn (o_derived_ base der :: o :: os).
+
+  Lemma canon_syn_sem_eqv :
+    ∀ os,
+      roff_canon os <-> roff_canon_syn os.
+  Proof.
+    rewrite /roff_canon /nf /red.
+    move=> os. split; move=> Hc.
+    {
+      admit.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:170]: Important.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 19]
```diff
@@ -0,0 +1,1336 @@
...
+        try (
+          match goal with
+          | H : [] = ?l ++ ?r |- False =>
+              destruct l; simpl in *;
+              inversion H
+          end
+        ).
+        all: admit.
+    }
+  Admitted.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:224]: Important.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 20]
```diff
@@ -0,0 +1,1336 @@
...
+        rewrite (norm_eager _ lt). 2: done.
+        do 2 rewrite (app_assoc lt).
+        apply norm_complete_aux.
+        { done. }
+        {
+          destruct Hrw;
+          simpl; lia.
+        }
+      }
+    Admitted.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:592]: Important.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 21]
```diff
@@ -0,0 +1,1336 @@
...
+  Definition ptr_alloc_id (p : ptr) : option alloc_id :=
+    match p with
+    | offset_ptr (alloc_ptr_ a _) _ => Some a
+    | _ => None
+    end.
+  
+  Definition null_alloc_id : alloc_id := null_alloc_id.
+  Lemma ptr_alloc_id_nullptr :
+    ptr_alloc_id nullptr = Some null_alloc_id.
+  Admitted.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:1016]: Important but trivial.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 22]
```diff
@@ -0,0 +1,1336 @@
...
+    move=> σ1 σ2 H.
+    rewrite /ptr_vaddr.
+    extensionality p.
+    destruct p. easy.
+  Admitted.
+  
+  Lemma ptr_vaddr_nullptr :
+    ∀ σ, @ptr_vaddr σ nullptr = Some 0%N.
+  Proof.
+  Admitted.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:1286]: Trivial.

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v [hunk 23]
```diff
@@ -0,0 +1,1336 @@
...
+  Lemma ptr_vaddr_resp_leq :
+    ∀ σ1 σ2,
+      genv_leq σ1 σ2 ->
+      @ptr_vaddr σ1 = @ptr_vaddr σ2.
+  Proof.
+    move=> σ1 σ2 H.
+    rewrite /ptr_vaddr.
+    extensionality p.
+    destruct p. easy.
+  Admitted.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:1281]: Statement needs fixing.

File: rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v [hunk 24]
```diff
@@ -0,0 +1,635 @@
...
+    glob_def σ cls = Some (Gstruct st) ->
+    st.(s_layout) = POD \/ st.(s_layout) = Standard ->
+    eval_offset σ (o_field (Field cls n)) = offset_of σ cls n.
+
+  (* [eval_offset] respects the monoidal structure of [offset]s *)
+  Axiom eval_offset_dot : ∀ σ (o1 o2 : offset),
+    ∀ s1 s2,
+      eval_offset σ o1 = Some s1 ->
+      eval_offset σ o2 = Some s2 ->
+      eval_offset σ (o1 ,, o2) = Some (s1 + s2).
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: We should port our code to the newer `eval_offset_dot`.

Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: We should port our code to the newer/weaker `eval_offset_dot`.

File: rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v [hunk 25]
```diff
@@ -0,0 +1,635 @@
...
+      Not defined on all valid pointers; defined on pointers existing in C++ (
+      <https://eel.is/c++draft/basic.compound#3>).
+      See discussion above.
+   *)
+  Parameter ptr_vaddr : ∀ `{genv}, ptr -> option vaddr.
+
+  Axiom ptr_vaddr_resp_leq :
+    ∀ σ1 σ2,
+      genv_leq σ1 σ2 ->
+      @ptr_vaddr σ1 = @ptr_vaddr σ2.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: We should port our code to the newer `ptr_vaddr `.

File: rocq-bluerock-brick/theories/lang/cpp/model/simple_pointers_utils.v [hunk 26]
```diff
@@ -105,23 +107,3 @@ Definition global_ptr (tu : translation_unit) (o : obj_name) : ptr :=
...
-  Definition pinned_ptr_pure (va : vaddr) (p : ptr) := ptr_vaddr p = Some va.
-  Lemma pinned_ptr_pure_eq :
-    pinned_ptr_pure = fun (va : vaddr) (p : ptr) => ptr_vaddr p = Some va.
-  Proof. done. Qed.
-End PTRS_DERIVED_MIXIN.
-
-(* Double-check [PTRS_DERIVED_MIXIN] matches its interface. *)
-Module PTRS_DERIVED_TEST (P : PTRS) : PTRS_DERIVED P.
-Include PTRS_DERIVED_MIXIN P.
-End PTRS_DERIVED_TEST.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/model/simple_pointers_utils.v]: Merged in master, should go when rebasing :-).

File: rocq-bluerock-brick/theories/lang/cpp/semantics/alloc_id.v [hunk 27]
```diff
@@ -0,0 +1,19 @@
...
+    We use them to model pointer provenance, following Cerberus.
+ *)
+Record alloc_id := MkAllocId { alloc_id_car : N }.
+
+#[global] Instance MkAllocId_inj : Inj (=) (=) MkAllocId.
+Proof. by intros ?? [=]. Qed.
+#[global] Instance alloc_id_eq_dec : EqDecision alloc_id.
+Proof. solve_decision. Qed.
+#[global] Instance alloc_id_countable : Countable alloc_id.
+Proof. by apply: (inj_countable' alloc_id_car MkAllocId) => -[?]. Qed.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/alloc_id.v]: Merged in master, should go when rebasing :-).

File: rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v (hunk 25 above)
Comment (Blaisorblade) [reply rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: This should be unnecessary now?

File: rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v [hunk 28]
```diff
@@ -0,0 +1,635 @@
+(*
+ * Copyright (c) 2020-2023 BlueRock Security, Inc.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/ptrs2.v]: This should go now?

File: rocq-bluerock-brick/theories/lang/cpp/semantics/values2.v [hunk 29]
```diff
@@ -0,0 +1,638 @@
+(*
+ * Copyright (c) 2020-2024 BlueRock Security, Inc.
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/cpp/semantics/values2.v]: This should go too?

File: rocq-bluerock-brick/theories/lang/dune [hunk 30]
```diff
@@ -0,0 +1,5 @@
+(include_subdirs qualified)
+(coq.theory
+ (name bedrock.lang)
+ (package rocq-bluerock-brick)
+ (theories bluerock.prelude iris stdpp elpi Ltac2 Equations Equations.Prop Equations.Type))
```
Comment (Blaisorblade) [inline rocq-bluerock-brick/theories/lang/dune]: This should probably go too

File: rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v (hunk 4 above)
Comment (ehatti) [reply rocq-bluerock-brick/theories/lang/cpp/model/inductive_pointers2.v:31]: Will switch to this next MR.

**Comment by Blaisorblade** [comment]
Thanks for this MR! I rebased and merged this as part of https://github.com/bluerock-io/BRiCk/pull/13.
